US08431563B2
A 150-mL round-bottomed flask was charged with tert-butyl (3R)-3-((benzyloxy)methyl)-4-(4-(2,2,2-trifluoro-1-hydroxy-1-(trifluoromethyl)ethyl)phenyl)-1-piperazinecarboxylate (0.917 g, 1.67 mmol), palladium on activated carbon (10 wt %, wet, degussa type, 1.34 g, 0.632 mmol, Sigma-Aldrich, St. Louis, Mo.) and EtOH (15 mL). The reaction mixture was evacuated under vacuum and refilled with hydrogen (5 times). The mixture was hydrogenated under balloon pressure of hydrogen at 60° C. for 2 h. The catalyst was removed via filtration through a pad of filter agent. The filter cake was covered with sand and washed with EtOH. The filtrate was concentrated to give tert-butyl (3R)-3-(hydroxymethyl)-4-(4-(2,2,2-trifluoro-1-hydroxy-1-(trifluoromethyl)ethyl)phenyl)-1-piperazinecarboxylate (0.767 g) as a white solid.

reactant | tert-butyl (3R)-3-((benzyloxy)methyl)-4-(4-(2,2,2-trifluoro-1-hydroxy-1-(trifluoromethyl)ethyl)phenyl)-1-piperazinecarboxylate | 1.67 mmol, 0.917 g | C(C1=CC=CC=C1)OC[C@H]1CN(CCN1C1=CC=C(C=C1)C(C(F)(F)F)(C(F)(F)F)O)C(=O)OC(C)(C)C | C26H30F6N2O4
catalyst | palladium on activated carbon | 0.632 mmol, 1.34 g | [Pd] | Pd
solvent | EtOH | 15 mL | CCO | C2H6O
product | tert-butyl (3R)-3-(hydroxymethyl)-4-(4-(2,2,2-trifluoro-1-hydroxy-1-(trifluoromethyl)ethyl)phenyl)-1-piperazinecarboxylate | 0.767 g | OC[C@H]1CN(CCN1C1=CC=C(C=C1)C(C(F)(F)F)(C(F)(F)F)O)C(=O)OC(C)(C)C | C19H24F6N2O4
